* source VOLTAGEREG
V_V1         N00120 0  
+SIN 0 310V 50Hz 0 0 0
R_R1         N00120 N00116 R_R1 1 TC=0,0 
.model        R_R1 RES R=1 DEV=5% TC1=0 TC2=0
X_TX1    N00116 0 N37066 N37475 SCHEMATIC1_TX1 
C_Cs         0 N02456 C_Cs 15m  TC=0,0 
.model        C_Cs CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R2         N08006 N02456 R_R2 1k TC=0,0 
.model        R_R2 RES R=1 DEV=5% TC1=0 TC2=0
X_P         N08006 N02385 N016870 POT PARAMS: SET=0 VALUE=2k
R_R3         0 N016870 R_R3 1k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
R_Rp         N02522 N02582 R_Rp .14 TC=0,0 
.model        R_Rp RES R=1 DEV=1% TC1=0 TC2=0
R_Rl         0 N02522 R_Rl 100 TC=0,0 
.model        R_Rl RES R=1 DEV=5% TC1=0 TC2=0
X_U2         N02385 N02522 N02456 0 N02699 uA741
D_ZD         0 N08006 D1N4744A 
Q_Tp         N02699 N02582 N02522 Q2N3716
Q_T1         N02456 N02699 N02582 Q2N3716
D_D1         0 N37066 MUR110 
D_D4         N37475 N02456 MUR110 
D_D3         0 N37475 MUR110 
D_D2         N37066 N02456 MUR110 
.PARAM  r=0.5 set=0.5

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 4
L2_TX1         3 4 20m
.ends SCHEMATIC1_TX1
